US07176224B2
3-{4-[2-(2-Biphenyl-4-yl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-(2-methoxy-phenoxy)-2-methyl-propionic acid;
Potassium carbonate (0.048 g, 0.35 mmol) was added to a solution of 3-(4-Hydroxy-phenyl)-2-(2-methoxy-phenoxy)-2-methyl-propionic acid ethyl ester and toluene-4-sulfonic acid 2-(2-biphenyl-4-yl-5-methyl-oxazol-4-yl)-ethyl ester in 4A sieve-dried ethanol (2 mL). The resultant mixture was stirred at 80° C. under an atmosphere of nitrogen for 18 h, then diluted with ethanol (2 mL). 5N NaOH (0.5 mL) was added, then the reaction mixture was refluxed for 2 h. The reaction mixture was concentrated in vacuo, diluted with 1N HCl, and extracted with CH2Cl2. The organic layer was dried through a Varian ChemElut cartridge, concentrated in vacuo, and purified by LCMS. 1H NMR (400 MHz, CDCl3): δ 8.05 (d, 2H, J=7.82 Hz), 7.70 (d, 2H, J=8.21 Hz), 7.62 (d, 2H, J=7.82 Hz), 7.45 (t, 2H, J=7.82 Hz), 7.39–7.36 (m, 1H), 7.19 (d, 2H, J=8.21), 6.88 (d, 1H, J=8.21 Hz), 6.84–6.80 (m, 3H), 6.63 (d, 1H, J=7.82 Hz), 4.22 (t, 2H, J=5.87 Hz), 3.82 (s, 3H), 3.30 (d, 1H, J=14.08 Hz), 3.08 (dd, 3H, J=9.78 Hz, 3.52 Hz), 2.43 (s, 3H), 1.30(s, 2H), 1.23 (s, 1H). MS [ES+] m/z exact mass calcd for C35H34NO6 564.2386, found 564.2407.

reactant | Potassium carbonate | 0.35 mmol, 0.048 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(4-Hydroxy-phenyl)-2-(2-methoxy-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=C(C=CC=C1)OC)=O | C19H22O5
reactant | toluene-4-sulfonic acid 2-(2-biphenyl-4-yl-5-methyl-oxazol-4-yl)-ethyl ester | C1(=CC=C(C=C1)C=1OC(=C(N1)CCOS(=O)(=O)C1=CC=C(C=C1)C)C)C1=CC=CC=C1 | C25H23NO4S
reactant | NaOH | 5N, 0.5 mL | [OH-].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 3-{4-[2-(2-Biphenyl-4-yl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-(2-methoxy-phenoxy)-2-methyl-propionic acid | C1(=CC=C(C=C1)C=1OC(=C(N1)CCOC1=CC=C(C=C1)CC(C(=O)O)(C)OC1=C(C=CC=C1)OC)C)C1=CC=CC=C1 | C35H33NO6
